US07015328B2
2-Imino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-2H-chromene
4 Å Molecular sieves (20 mg) were added to 2-amino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene (20 mg, 0.05 mmol) in dichloromethane (1 mL). The solution was stirred for approximately 15 min. Then 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (10 mg, 0.05 mmol, 1 eq.) was added and stirred continuously at room temperature for approximately 1 h. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with saturated aqueous sodium bicarbonate solution (20 mL) and brine (20 mL), and dried over sodium sulfate and concentrated to yield 17 mg (79%) of the desired compound. 1H NMR (DMSO-d6): 8.33 (s, 1H), 7.28 (d, J=1.9 Hz, 1H), 7.21 (d, J=1.9 Hz, 1H), 6.87 (d, J=9.1 Hz, 1H), 6.56 (dd, J=2.5, 9.1 Hz, 1H), 6.40 (d, J=2.5 Hz, 1H), 3.84 (s, 3H), 3.82 (s, 3H), 3.03 (s, 6H).

reactant | 2-amino-3-cyano-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | 0.05 mmol, 20 mg | NC=1OC2=CC=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br | C18H15BrN2O3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.05 mmol, 10 mg, 1 eq. | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-Imino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-2H-chromene | 17 mg, 79% | N=C1OC2=CC(=CC=C2C(=C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C20H18BrN3O3
